* CDL/LVS-oriented netlist
.SUBCKT fsdpq_f_x1 Q CK D SI SE VDD VSS
XFSDPQ_F_sei_P0 FSDPQ_F_se_b SE VDD VDD pmos w=2u l=100n
XFSDPQ_F_sei_N0 FSDPQ_F_se_b SE VSS VSS nmos w=1u l=100n
XFSDPQ_F_smx_MP0 FSDPQ_F_din SE D VDD pmos w=2u l=100n
XFSDPQ_F_smx_MN0 FSDPQ_F_din FSDPQ_F_se_b D VSS nmos w=1u l=100n
XFSDPQ_F_smx_MP1 FSDPQ_F_din FSDPQ_F_se_b SI VDD pmos w=2u l=100n
XFSDPQ_F_smx_MN1 FSDPQ_F_din SE SI VSS nmos w=1u l=100n
XFSDPQ_F_ck_P0 FSDPQ_F_ck_b CK VDD VDD pmos w=2u l=100n
XFSDPQ_F_ck_N0 FSDPQ_F_ck_b CK VSS VSS nmos w=1u l=100n
XFSDPQ_F_m_in_P FSDPQ_F_m_n1 CK FSDPQ_F_din VDD pmos w=2u l=100n
XFSDPQ_F_m_in_N FSDPQ_F_m_n1 FSDPQ_F_ck_b FSDPQ_F_din VSS nmos w=1u l=100n
XFSDPQ_F_m_i1_P0 FSDPQ_F_m_n2 FSDPQ_F_m_n1 VDD VDD pmos w=2u l=100n
XFSDPQ_F_m_i1_N0 FSDPQ_F_m_n2 FSDPQ_F_m_n1 VSS VSS nmos w=1u l=100n
XFSDPQ_F_m_i2_P0 FSDPQ_F_m_n1 FSDPQ_F_m_n2 VDD VDD pmos w=2u l=100n
XFSDPQ_F_m_i2_N0 FSDPQ_F_m_n1 FSDPQ_F_m_n2 VSS VSS nmos w=1u l=100n
XFSDPQ_F_m_fb_P FSDPQ_F_m_n1 FSDPQ_F_ck_b FSDPQ_F_m_n2 VDD pmos w=2u l=100n
XFSDPQ_F_m_fb_N FSDPQ_F_m_n1 CK FSDPQ_F_m_n2 VSS nmos w=1u l=100n
XFSDPQ_F_m_o_P0 FSDPQ_F_qm FSDPQ_F_m_n2 VDD VDD pmos w=2u l=100n
XFSDPQ_F_m_o_N0 FSDPQ_F_qm FSDPQ_F_m_n2 VSS VSS nmos w=1u l=100n
XFSDPQ_F_s_in_P FSDPQ_F_s_n1 FSDPQ_F_ck_b FSDPQ_F_qm VDD pmos w=2u l=100n
XFSDPQ_F_s_in_N FSDPQ_F_s_n1 CK FSDPQ_F_qm VSS nmos w=1u l=100n
XFSDPQ_F_s_i1_P0 FSDPQ_F_s_n2 FSDPQ_F_s_n1 VDD VDD pmos w=2u l=100n
XFSDPQ_F_s_i1_N0 FSDPQ_F_s_n2 FSDPQ_F_s_n1 VSS VSS nmos w=1u l=100n
XFSDPQ_F_s_i2_P0 FSDPQ_F_s_n1 FSDPQ_F_s_n2 VDD VDD pmos w=2u l=100n
XFSDPQ_F_s_i2_N0 FSDPQ_F_s_n1 FSDPQ_F_s_n2 VSS VSS nmos w=1u l=100n
XFSDPQ_F_s_fb_P FSDPQ_F_s_n1 CK FSDPQ_F_s_n2 VDD pmos w=2u l=100n
XFSDPQ_F_s_fb_N FSDPQ_F_s_n1 FSDPQ_F_ck_b FSDPQ_F_s_n2 VSS nmos w=1u l=100n
XFSDPQ_F_s_o_P0 Q FSDPQ_F_s_n2 VDD VDD pmos w=2u l=100n
XFSDPQ_F_s_o_N0 Q FSDPQ_F_s_n2 VSS VSS nmos w=1u l=100n
.ENDS fsdpq_f_x1
